US08865726B2
To (S)-4-(3-chlorophenyl)oxazolidin-2-one (278 mg, 1.41 mmol) in DMF (10 mL) was added sodium hydride (56.8 mg, 1.42 mmol) and the reaction was stirred at ambient temperature for 1 hour. 3-bromo-5-chloropyrazolo[1,5-a]pyrimidine (300 mg, 1.29 mmol) was added at once and the reaction was stirred at ambient temperature for 18 hours. Ice was added followed by ammonium chloride (aqueous), and the resulting suspension filtered and washed with water. After drying, (S)-3-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-4-(3-chlorophenyl)oxazolidin-2-one (231 mg, 45.5% yield) was isolated as a pale yellow solid.

reactant | (S)-4-(3-chlorophenyl)oxazolidin-2-one | 1.41 mmol, 278 mg | ClC=1C=C(C=CC1)[C@@H]1NC(OC1)=O | C9H8ClNO2
reactant | sodium hydride | 1.42 mmol, 56.8 mg | [H-].[Na+]
reactant | 3-bromo-5-chloropyrazolo[1,5-a]pyrimidine | 1.29 mmol, 300 mg | BrC=1C=NN2C1N=C(C=C2)Cl | C6H3BrClN3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (S)-3-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-4-(3-chlorophenyl)oxazolidin-2-one | 231 mg, 45.5% yield | BrC=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C2=CC(=CC=C2)Cl)=O | C15H10BrClN4O2
